US04486354
2,3,5-Trichlorobenzoic Acid
Powered sodium nitrite (37.0 g, 0.54M) was added portionwise to concentrated sulphuric acid (270 ml) which was stirred under an atmosphere of nitrogen. The temperature of the mixture was not allowed to rise above 70°. Meanwhile 3-amino-2,5-dichlorobenzoic acid (100 g, 0.45M) was dissolved in hot glacial acetic acid (1,200 ml), the resultant solution was cooled rapidly to room temperature and added dropwise to the above stirred and cooled nitrous acid mixture so that the internal temperature did not rise above 30°. The solution formed after the addition was left at room temperature for 2 hours then was slowly added to a stirred solution of cuprous chloride (97 g, 0.97M) in concentrated hydrochloric acid (970 ml). The resultant mixture was stirred until the nitrogen evolution had ceased and was then left overnight. The solid was filtered off, washed well with water and dried in vacuo. Yield 90.1 g (89%) m.p. 164°-165° C. (uncorrected).

reactant | sodium nitrite | 0.54M, 37.0 g | N(=O)[O-].[Na+]
reactant | sulphuric acid | 270 ml | S(O)(O)(=O)=O | H2O4S
reactant | 3-amino-2,5-dichlorobenzoic acid | 0.45M, 100 g | NC=1C(=C(C(=O)O)C=C(C1)Cl)Cl | C7H5Cl2NO2
reactant | nitrous acid | N(=O)O | HNO2
reactant | hydrochloric acid | 970 ml | Cl | ClH
solvent | acetic acid | 1,200 ml | C(C)(=O)O | C2H4O2
product | 2,3,5-Trichlorobenzoic Acid | ClC1=C(C(=O)O)C=C(C=C1Cl)Cl | C7H3Cl3O2
